US06083961
A suspension of 2-amino-3-methoxy-N-methylaniline (671 mg) and acetic acid (265 mg) in 4N hydrochloric acid (3.5 ml) was refluxed for 10 hours. Insoluble material was filtered off, and the filtrate was adjusted to pH 7 with saturated sodium bicarbonate solution, and extracted with dichloromethane. The organic layers were combined, washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel flash chromatography (dichloromethane:methanol=40:1, v/v) to give 1,2-dimethyl-4-methoxy-1H-benzimidazole (680 mg).

reactant | 2-amino-3-methoxy-N-methylaniline | 671 mg | NC1=C(NC)C=CC=C1OC | C8H12N2O
reactant | acetic acid | 265 mg | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 4N, 3.5 ml | Cl | ClH
product | 1,2-dimethyl-4-methoxy-1H-benzimidazole | 680 mg | CN1C(=NC2=C1C=CC=C2OC)C | C10H12N2O
